US07589091B2
Step A: Prop-2-ynyloxymethyl-benzene (I1a)
Tetrabutylammonium bromide (19.34 g, 600 mmol) was added to a solution of benzylbromide (71.3 ml, 600 mmol) and propargyl alcohol (35.5 ml, 600 mmol) in 270 ml of toluene and the mixture was heated to 50° C. A solution of sodium hydroxide (24 g, 600 mmol) in 55 ml of water was then added dropwise over a period of 1 hour and stirring was continued for another 3 hours. The reaction mixture was then cooled to 25° C. and transferred into a separatory funnel. The aqueous layer was removed and the organic layer was washed three times with 150 ml of brine. Residual water was removed by repeated azeotropic distillation using toluene. A pale yellow liquid was obtained. Yield: 81.9 g (93.4 %).

reactant | benzylbromide | 600 mmol, 71.3 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | propargyl alcohol | 600 mmol, 35.5 ml | C(C#C)O | C3H4O
reactant | sodium hydroxide | 600 mmol, 24 g | [OH-].[Na+]
catalyst | Tetrabutylammonium bromide | 600 mmol, 19.34 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | toluene | 270 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 55 ml | O | H2O
product | Prop-2-ynyloxymethyl-benzene | C(C#C)OCC1=CC=CC=C1 | C10H10O
